US08034812B2
Production of N-(5-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 264 and using N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide (840 mg, 2.8 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonylchloride (540 mg, 3.4 mmol) and N,N-dimethylacetamide (35 mL), the title compound (910 mg, 77%) was obtained as a white solid.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide | 2.8 mmol, 840 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(C)=O)C=CC1C | C15H15N5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonylchloride | 3.4 mmol, 540 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | N,N-dimethylacetamide | 35 mL | CN(C(C)=O)C | C4H9NO
product | N-(5-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 910 mg, 77% | C(C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1 | C21H21N7O3
